US04775692
To an ice-cooled and stirred solution of cyclopentylacetic acid (7.9 g, 0.062 mol) in 30 ml of ether was added an excess solution of diazomethane in ether. After concentration, the residue was distilled under reduced pressure to give a colorless transparent liquid of methyl cyclopentylacetate (yielded amount 5.5g, 0.039 mol, yield 62.5%, b.p. 64°-65° C./15 mmHg). Then, a solution of n-butyl lithium in hexane (1.58N, 55.7 ml, 0.088 mol) was added dropwise to a stirred solution of dimethyl methylphosphonate (10.9 g, 0.088 mol) in 100 ml of anhydrous THF under argon atmosphere at -78° C. After 30 minutes, the above-mentioned methyl cyclopentylacetate (5.0 g, 0.035 mol) in 10 ml of anhydrous THF was further added dropwise, and the mixture was stirred in situ for 30 minutes. This reaction mixture was allowed to warm to 0° C., diluted with 5.3 ml of acetic acid and 20 ml of water, and concentrated. 30 ml of water was added to the residue. The mixture was extracted with ethyl acetate (50 ml×2), and the combined ethyl acetate layers were washed with water (20 ml×1) and brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled under reduced pressure to give a colorless transparent oil of dimethyl 3-cyclopentyl-2-oxo-propylphosphonate (7.8 g, 0.033 mol, yield 94.7%, b.p. 110°-112° C./0.13 mmHg), which was assigned the structure by the following data:

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.088 mol, 1.58N, 55.7 ml | CCCCCC | C6H14
reactant | dimethyl methylphosphonate | 0.088 mol, 10.9 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl cyclopentylacetate | 0.035 mol, 5.0 g | C1(CCCC1)CC(=O)OC | C8H14O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5.3 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | dimethyl 3-cyclopentyl-2-oxo-propylphosphonate | 0.033 mol, 7.8 g, yield 94.7% | C1(CCCC1)CC(CP(OC)(OC)=O)=O | C10H19O4P
